US05281612
7-[3-(1-(N-tert-butoxycarbonylamino)ethyl)-1-pyrrolidinyl]-1-cyclopropyl-6-fluoro-1,4 -dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid isomer A (0.78 g, 0.0017 mole), preformed above, in ethanol (37 mL)/1N HCl (15 mL) was heated at 90° for 75 minutes. The reaction was cooled to room temperature and the solvent partially removed under reduced pressure. On standing a solid formed. This was filtered, washed with ethanol/diethyl ether, and then with diethyl ether and was dried in an oven under vacuum at 70° for two hours to give 7-[3-(1-aminoethyl)-1-pyrrolidinyl]-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8 -naphthyridine-3-carboxylic acid isomer A (0.40 g, 57%) as a white powder, mp 322°-325° (dec).

reactant | 7-[3-(1-(N-tert-butoxycarbonylamino)ethyl)-1-pyrrolidinyl]-1-cyclopropyl-6-fluoro-1,4 -dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | C(C)(C)(C)OC(=O)NC(C)C1CN(CC1)C1=C(C=C2C(C(=CN(C2=N1)C1CC1)C(=O)O)=O)F | C23H29FN4O5
reactant | HCl | 1N, 15 mL | Cl | ClH
solvent | ethanol | 37 mL | C(C)O | C2H6O
product | 7-[3-(1-aminoethyl)-1-pyrrolidinyl]-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8 -naphthyridine-3-carboxylic acid | NC(C)C1CN(CC1)C1=C(C=C2C(C(=CN(C2=N1)C1CC1)C(=O)O)=O)F | C18H21FN4O3
